* C:\Users\tydav\gitLocals\ECE3110\2024\lab02\figures\precision\precision.asc
V1 N002 0 SINE(0 5 1k)
XU1 N002 N003 N001 N005 N004 LM741/NS
D1 N004 N003 D1N4001
R1 N003 0 10k
V2 N001 0 15
V3 N005 0 -15
.model D D
.lib C:\Users\tydav\OneDrive - weber.edu\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 4m
.include C:\Users\tydav\gitLocals\ECE3110\2024\lab02\figures\lib\LM741.MOD
.backanno
.end
